US04698340
A mixture of ethyl 2-[2-(4-chlorobenzyloxy)-benzylidene]acetoacetate (10 g), acetamidine hydrochloride (3.16 g), and triethylamine (4.23 g) in n-butanol (100 ml) was refluxed for 3.5 hours. The reaction mixture, added ethyl acetate (100 ml), was washed with water (100 ml) and 5% hydrochloric acid (100 ml) successively. The solvent was evaporated and the residual crystalline was stirred with ethyl acetate (50 ml) for 1 hour. The crystals were collected by filtration dried in vacuo to afford ethyl 2,4-dimethyl-6-[2-(4-chlorobenzyloxy)phenyl]-1,6-dihydro-5-pyrimidinecarboxylate hydrochloride (2.45 g).

reactant | ethyl 2-[2-(4-chlorobenzyloxy)-benzylidene]acetoacetate | 10 g | ClC1=CC=C(COC2=C(C=C(C(=O)OCC)C(=O)C)C=CC=C2)C=C1 | C20H19ClO4
reactant | acetamidine hydrochloride | 3.16 g | Cl.C(C)(=N)N
reactant | triethylamine | 4.23 g | C(C)N(CC)CC | C6H15N
reactant | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | ethyl 2,4-dimethyl-6-[2-(4-chlorobenzyloxy)phenyl]-1,6-dihydro-5-pyrimidinecarboxylate hydrochloride | 2.45 g | Cl.CC=1NC(C(=C(N1)C)C(=O)OCC)C1=C(C=CC=C1)OCC1=CC=C(C=C1)Cl | InChI=1S/C22H23ClN2O3.ClH/c1-4-27-22(26)20-14(2)24-15(3)25-21(20)18-7-5-6-8-19(18)28-13-16-9-11-17(23)12-10-16;/h5-12,21H,4,13H2,1-3H3,(H,24,25);1H
